US08809369B2
A mixture of 2-{3-[4-(2,4-dimethyl-phenyl)-piperazin-1-yl]-phenyl}-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester (0.28 g, 0.56 mmol) in methanol (3 mL) and tetrahydrofuran (10 mL), 30% sodium hydroxide in water (1 mL). The reaction mixture was stirred at 60° C. for 12 h. The mixture was neutralized with a 3 N aqueous hydrochloric acid solution and extracted with ethyl acetate (2×50 mL), washed with water, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 2-{3-[4-(2,4-dimethyl-phenyl)-piperazin-1-yl]-phenyl}-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid (0.25 g, 90%) as a white solid which was used for next step without further purification: MS (ESI) M+1=470.3.

reactant | 2-{3-[4-(2,4-dimethyl-phenyl)-piperazin-1-yl]-phenyl}-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester | 0.56 mmol, 0.28 g | C(C)OC(=O)C=1C=C2C(CC(NC2=CC1)C1=CC(=CC=C1)N1CCN(CC1)C1=C(C=C(C=C1)C)C)(C)C | C32H39N3O2
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | [OH-].[Na+]
solvent | water | 1 mL | O | H2O
product | 2-{3-[4-(2,4-dimethyl-phenyl)-piperazin-1-yl]-phenyl}-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid | 0.25 g, 90% | CC1=C(C=CC(=C1)C)N1CCN(CC1)C=1C=C(C=CC1)C1NC2=CC=C(C=C2C(C1)(C)C)C(=O)O | C30H35N3O2
